US07618990B2
4-[2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-5-fluoro-1,3-thiazol-4-yl]benzonitrile
The Selectfluor® reagent (2.042 g, 5.76 mmol) in 250 mL of acetonitrile was added under nitrogen dropwise to a solution of 4-[2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile (1.566 g, 5.23 mmol), prepared in Example 6, in 250 mL of acetonitrile at room temperature. After the addition, the reaction was stirred at room temperature overnight. The reaction was concentrated under reduced pressure to remove the acetonitrile. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed once with water, and the solvent removed under reduced pressure. Purification of the residue on a Horizon™ Flash Collector (the Biotage FLASH 25+™ cartridge) using a linear gradient of methylene chloride in hexane as the eluent gave the title compound (566.7 mg, 34%) as a white solid, mp 177-178° C.; MS (ESI) m/z 318 [M+H]+. Anal. Calcd for C15H12FN3O2S: C, 56.77; H, 3.81; N, 13.24. Found: C, 56.53; H, 3.91; N, 13.12.

reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | 4-[2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile | 5.23 mmol, 1.566 g | CC1(N(C(OC1)=O)C=1SC=C(N1)C1=CC=C(C#N)C=C1)C | C15H13N3O2S
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 4-[2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-5-fluoro-1,3-thiazol-4-yl]benzonitrile | 566.7 mg, 34% | CC1(N(C(OC1)=O)C=1SC(=C(N1)C1=CC=C(C#N)C=C1)F)C | C15H12FN3O2S
